US03989812
To a solution of 25.0 g (0.19 mole) of 1,3,3-trimethoxy- 1-propene in 75 ml of ether at 5° C is added 22.4 g (0.14 mole) of bromine (bromine color begins to persist at this point) over a period of 40 minutes. The solvent is removed in vacuo at 25° C and the colorless liquid residue is added dropwise with stirring to a mixture of 25 g of sodium bicarbonate and 80 ml of 75% v/v dioxane at 0°-5° C. Stirring is continued for 30 minutes and the mixture is extracted with 200 ml and 150 ml portions of ether. The extract is dried over magnesium sulfate, evaporated in vacuo and the residue distilled through a Vigreux head to afford 2-bromo-3,3-dimethoxypropionaldehyde, b.p. 70°-73° C/8 mm.

reactant | 1,3,3-trimethoxy- 1-propene | 0.19 mole, 25.0 g | COC=CC(OC)OC | C6H12O3
reactant | bromine | 0.14 mole, 22.4 g | BrBr | Br2
solvent | ether | 75 ml | CCOCC | C4H10O
product | 2-bromo-3,3-dimethoxypropionaldehyde | BrC(C=O)C(OC)OC | C5H9BrO3
